US07858632B2
To a solution of 5 ml 1.9 M NaOMe in MeOH was added 4-Chloro-N-[5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-phenyl]-butyramide (0.495 g, 1.3 mmol). After 6 h the solution was concentrated in vacuo. The residue was taken up in ethyl acetate, washed with H2O, washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to give 1-[5-(4-amino-2-methyl-pyrimidin-5-yloxy)4-isopropyl-2-methoxy-phenyl]-pyrrolidin-2-one (0.230 g, 47%) as white solid; [MH]+=358; mp (HCl salt)>300° C.

reactant | NaOMe | 1.9 M, 5 ml | C[O-].[Na+]
reactant | 4-Chloro-N-[5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-phenyl]-butyramide | 1.3 mmol, 0.495 g | ClCCCC(=O)NC1=C(C=C(C(=C1)OC=1C(=NC(=NC1)N)N)C(C)C)OC | C18H24ClN5O3
solvent | MeOH | CO | CH4O
product | 1-[5-(4-amino-2-methyl-pyrimidin-5-yloxy)4-isopropyl-2-methoxy-phenyl]-pyrrolidin-2-one | 0.230 g, 47% | NC1=NC(=NC=C1OC=1C(=CC(=C(C1)N1C(CCC1)=O)OC)C(C)C)C | C19H24N4O3
